US08283353B2
4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (6.00 g), 4-isopropoxyphenylboric acid (5.85 g), copper(II) acetate (5.90 g), pyridine (18 mL), triethylamine (9 mL), molecular sieves 4A (18.0 g) and tetrahydrofuran (100 mL) was stirred at room temperature for 1 day. Ethyl acetate (100 mL) was added to the reaction mixture, the mixture was stirred at room temperature for 1 hr, and the insoluble material was filtered off. The filtrate was concentrated, and the residue was purified by silica gel column chromatography to give 4′-({4-[4-(1-methylethoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile as a colorless solid (6.53 g, 80%). A mixture of 4′-({4-[4-(1-methylethoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (6.53 g) and 25% hydrobromic acid-acetic acid solution (10 mL) was stirred under refluxing for 2 hr. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate. The obtained ethyl acetate solution was washed with saturated aqueous sodium hydrogen carbonate and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (4.38 g, 73%).

reactant | 4′-({4-[4-(1-methylethoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 6.53 g | CC(C)OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C31H29N5O2
solvent | hydrobromic acid acetic acid | 10 mL | Br.C(C)(=O)O
product | 4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 4.38 g, 73% | OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H23N5O2
